US09447035B2
Preparation of (S)-2-[2,6-dichloro-4-[3-[3-[2-[2-[2-[2-[2-[2-[2-[2-[3-(2,5-dioxo-2,5- dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]propoxy]benzoylamino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid; VLA-4 Ligand Reagent 10
The title compound was prepared using a similar procedure as described in Example 1, Step 11, starting from (S)-2-[4-(3-aminopropoxy)-2,6-dichlorobenzoylamino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid trifluoroacetate salt (98 mg, 0.145 mmol), 3-[2-[2-[2-[2-[2-[2-[2-[[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester (100 mg, 0.145 mmol), and DIPEA (187 mg, 252 uL, 1.45 mmol), and after HPLC purification, resulted in a hygroscopic white solid (88 mg, 53%). ES(+)-HRMS m/e calcd. for C52H70Cl2N6O18 (M+H)+ 1137.4197, obsd. 1137.4196.

reactant | (S)-2-[4-(3-aminopropoxy)-2,6-dichlorobenzoylamino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid trifluoroacetate salt | 0.145 mmol, 98 mg | FC(C(=O)O)(F)F.NCCCOC1=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C=2C(N(C(N(C2C)C)=O)C)=O)C(=C1)Cl)Cl
reactant | 3-[2-[2-[2-[2-[2-[2-[2-[[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester | 0.145 mmol, 100 mg | O=C1N(C(CC1)=O)OC(CCOCCOCCOCCOCCOCCOCCOCCOCCNC(CCN1C(C=CC1=O)=O)=O)=O | C30H47N3O15
reactant | DIPEA | 1.45 mmol, 252 uL, 187 mg | CCN(C(C)C)C(C)C | C8H19N
product | (S)-2-[2,6-dichloro-4-[3-[3-[2-[2-[2-[2-[2-[2-[2-[2-[3-(2,5-dioxo-2,5- dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]propoxy]benzoylamino]-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid | ClC1=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C=2C(N(C(N(C2C)C)=O)C)=O)C(=CC(=C1)OCCCNC(CCOCCOCCOCCOCCOCCOCCOCCOCCNC(CCN1C(C=CC1=O)=O)=O)=O)Cl | C52H70Cl2N6O18
